* Schematics Netlist *



V_V2         $N_0001 0 10V
V_V3         $N_0002 $N_0003 5V
R_R4         $N_0001 $N_0002  100  
R_R5         0 $N_0002  5  
R_R6         0 $N_0003  5  
I_I1         $N_0003 0 DC 10a  
