* Schematics Netlist *



R_R2         Vin $N_0001  1k  
R_R3         $N_0001 Vout  1k  
D_D2         Vout $N_0002 D1N4002 
V_V3         Vin 0  
+SIN 0 10 50 0 0 0
V_V4         $N_0002 0 5V
