* Schematics Netlist *



R_R5         0 $N_0001  8  
R_R2         $N_0002 $N_0001  20  
R_R4         $N_0004 $N_0003  16  
R_R1         $N_0005 $N_0003  8  
V_V1         $N_0005 0 10V
E_E2         $N_0003 $N_0002 $N_0004 0 1
R_R3         0 $N_0004  4  
