* Schematics Netlist *



R_R1         a b  1k  
R_R2         b $N_0001  1k  
R_R3         0 b  1k  
E_E1         $N_0001 0 a b 1
V_V1         a 0 10V
