* Schematics Netlist *



F_F1         $N_0001 a VF_F1 1
VF_F1        a b 0V
V_V1         $N_0002 0 10
R_R1         $N_0002 b  8  
R_R4         5 a  16  
R_R3         0 5  4  
R_R5         0 $N_0003  8  
R_R6         $N_0001 $N_0003  20  
