* Schematics Netlist *



V_V1         $N_0001 0 20V
R_Ra         $N_0001 $N_0002  5k  
R_Rc         0 $N_0003  1k  
I_Is         $N_0003 $N_0002 DC 2mA  
R_Rb         0 $N_0002  4k  
