* Schematics Netlist *



V_V2         $N_0001 0 20
V_V4         0 $N_0002 20
X_U1         $N_0003 $N_0004 $N_0001 $N_0002 output uA741
R_R4         0 $N_0003  500k  
R_R2         input $N_0007  10k  
V_V7         input 0  
+SIN 0 10 2 0 0 0
C_C1         $N_0007 $N_0004  2uf  
R_R1         $N_0004 output  100k  
