* Schematics Netlist *



X_U1         0 $N_0001 $N_0002 $N_0003 output uA741
V_V3         $N_0002 0 20
V_V2         0 $N_0003 20v
R_R1         input $N_0001  1k  
C_C1         $N_0001 output  0.8uf  
V_V1         input 0 DC 0 
+PULSE -1 1 0 1ns 1ns 10ms 20ms
