* Schematics Netlist *



R_R1         $N_0002 $N_0001  1k  
L_L1         $N_0001 $N_0003  10H  
C_C2         0 $N_0003  1uf  
V_V2         $N_0002 0 DC 0 
+SIN 0 20 50 0 0 0
